* SKY130 2-Stage Cross-Coupled Charge Pump — Startup Transient
.lib "sky130_models/sky130.lib.spice" tt

Vdd vdd 0 1.8
Vss vss 0 0

.param freq_mhz = 60
.param tper = '1e-6/freq_mhz'
.param thalf = 'tper/2'
.param trise = 'tper/50'

Vclk1 clk1 0 PULSE(0 1.8 0 'trise' 'trise' 'thalf-trise' 'tper')
Vclk2 clk2 0 PULSE(0 1.8 'thalf' 'trise' 'trise' 'thalf-trise' 'tper')

XMN1 a1 b1 vdd 0 sky130_fd_pr__nfet_g5v0d10v5 W=73.7506u L=0.5911u nf=1
XMN2 b1 a1 vdd 0 sky130_fd_pr__nfet_g5v0d10v5 W=73.7506u L=0.5911u nf=1
XMP1 mid b1 a1 mid sky130_fd_pr__pfet_g5v0d10v5 W=88.4132u L=0.5u nf=1
XMP2 mid a1 b1 mid sky130_fd_pr__pfet_g5v0d10v5 W=88.4132u L=0.5u nf=1
C1a a1 clk1 135.205p
C1b b1 clk2 135.205p
Cmid mid 0 14.17p

XMN3 a2 b2 mid 0 sky130_fd_pr__nfet_g5v0d10v5 W=85.002u L=0.5u nf=1
XMN4 b2 a2 mid 0 sky130_fd_pr__nfet_g5v0d10v5 W=85.002u L=0.5u nf=1
XMP3 vout b2 a2 vout sky130_fd_pr__pfet_g5v0d10v5 W=94.935u L=0.5u nf=1
XMP4 vout a2 b2 vout sky130_fd_pr__pfet_g5v0d10v5 W=94.935u L=0.5u nf=1
C2a a2 clk1 125.242p
C2b b2 clk2 125.242p
Cout vout 0 285.474p
Rload vout 0 2937.327

.options reltol=0.01 method=gear maxord=2

.control
tran 1n 25u uic
wrdata sims/data_startup.csv v(vout) v(mid) v(a1) v(b1)
echo "SIM_DONE"
.endc
.end
